US05332731
(c) Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate
Diphenylmethyl 7-amino-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate hydrochloride (300 mg) was reacted with (Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid (267 mg), followed by purifying the reaction product in accordance with the procedure of Example 1(d), affording the titled compound (360 mg; 78%).

reactant | Diphenylmethyl 7-amino-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate hydrochloride | 300 mg | Cl.NC1[C@@H]2N(C(=C(CS2)CC2OCCCC2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid | 267 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C25H21N3O3S
product | Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate | 360 mg, 78% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCCCC2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C51H47N5O5S3
